US07700641B2
B. Synthesis of 3-(5-bromo-2-hydroxyphenyl)-1-(diphenylmethyl)-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 15B, and making non-critical variations to replace 3-(5-bromo-2-hydroxyphenyl)-3-hydroxy-1-pentyl-1,3-dihydro-2H-indol-2-one with 3-(5-bromo-2-hydroxyphenyl)-1-(diphenylmethyl)-3-hydroxy-1,3-dihydro-2H-indol-2-one, the title compound was obtained (99%) as a white powder: 1H NMR (300 MHz, CDCl3) δ 7.39-7.20 (m, 11H), 7.11-7.06 (m, 4H), 6.82 (d, 1H), 6.57-6.51 (m, 1H), 5.04 (s, 1H); MS (ES+) m/z 471.2 (M+1), 473.2 (M+1).

reactant | 3-(5-bromo-2-hydroxyphenyl)-3-hydroxy-1-pentyl-1,3-dihydro-2H-indol-2-one | BrC=1C=CC(=C(C1)C1(C(N(C2=CC=CC=C12)CCCCC)=O)O)O | C19H20BrNO3
reactant | 3-(5-bromo-2-hydroxyphenyl)-1-(diphenylmethyl)-3-hydroxy-1,3-dihydro-2H-indol-2-one | BrC=1C=CC(=C(C1)C1(C(N(C2=CC=CC=C12)C(C1=CC=CC=C1)C1=CC=CC=C1)=O)O)O | C27H20BrNO3
product | 3-(5-bromo-2-hydroxyphenyl)-1-(diphenylmethyl)-1,3-dihydro-2H-indol-2-one | BrC=1C=CC(=C(C1)C1C(N(C2=CC=CC=C12)C(C1=CC=CC=C1)C1=CC=CC=C1)=O)O | C27H20BrNO2
